Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Erythromycin Base / Soy / Benadryl / Lyrica
 
Attending: ___.
 
Chief Complaint:
"I don't have mental illness."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
IDENTIFICATION:
Ms. ___ is a ___ yo woman with past psychiatric history of 
depression, PTSD, psychotic disorder NOS and PMH of chronic neck 
and back pain secondary to chiari 1 malformation who presents to 
the ___ ED on a ___ from her outpatient psychiatrist, 
Dr. ___, with concern for worsening psychotic symptoms 
including paranoia.

HISTORY OF PRESENT ILLNESS:
From Dr. ___ note in the emergency department -

"Patient states that there is a woman who does witchcraft in her 
apartment who has been coming into her home, poisoning her food 
and drinks, and influencing her cats in a negative manner.  She 
states that her family does not believe her.  She states that 
this woman is a friend of her ex-boyfriends who was trying to 
punish her because she ended the relationship with her 
ex-boyfriend.  She states that they are able to continuously 
break into her apartment because they were given keys by 
maintenance.  She states that the poison food and drink make her 
fall asleep and so she has stopped eating and has started all 
the way preferring to eat only oatmeal throughout the day.  She 
states that she has lost weight.  States that the woman has also 
placed something in her lotion to make her feet itch and the 
skin split.  States that she carries around many items of hers 
in a bag in an effort to protect it from being stolen by this 
woman who practices witchcraft.

She states that she hit her believes about a woman who practices 
witchcraft from her ___ and her doctor because she feared that 
they would not believe her.  She states that she has never seen 
this person come into her home because "they would never come in 
while I am home, because I am ___ Ghost filled." She states 
that when her mother was alive she told the patient that someone 
with witchcraft had been harming her as well.  She states that 
she did not believe this until it started happening to her.  
  
States that she is depressed because people do not believe her. 
States that her sleep is okay then notes that she is only 
sleeping 5 hours per night when her norm is ___ hours per night. 
She states that this has decreased over the past year.  She 
notes that she stays up late watching her "church programs".  
However patient denies loss of energy anhedonia, thoughts of 
death/SI, hypersomnia, perceived loss of appetite, poor 
concentration, psychomotor agitation or retardation.  Patient 
states that when she is depressed she generally gets quiet, she 
may cry and pray to God, and becomes irritable. 
 
While the patient denies symptoms of mania such as 
distractibility, erratic behavior, grandiosity, flight of ideas, 
increased activity, she endorses decreased need for sleep, 
stating that she feels awake after the 5 hours of sleep.  The 
patient also denies psychotic symptoms such as auditory or 
visual
hallucinations. 

While the patient stated "Jesus talks to me he warns us and 
reveals things before they happen," When clarified she noted 
that Jesus talks to her through the word of the book and not 
directly through her ears.

Patient denies symptoms of anxiety including panic attacks or 
agoraphobia. 

States that she was not taking works salty as prescribed.  She 
may have been taking half a pill on a daily basis, at times 
completely missing doses.  She states that she would also at 
times, see objects in her field of vision.  She was unable to 
clarify what those objects were, but they were only seen while 
she was on she also stated that while on her salty she felt like 
she had a "out of body experiences."   

Collateral:
___
-I've been seeing some over blown behavior from her. Sometimes 
having conversations with herself, answering her own questions. 
I just wanted to watch and see before calling the doctor, she 
has delusions at times, thinks a lady living upstairs doing 
witchcraft and voodoo, stealing her things, so she hides her 
belongings. She'll say the lady is hearing things she says in 
her apartment, and bothering her cats. When the cats are playing 
with each other the patient believes the woman is using witch 
craft.  Has hx of child hood sexual abuse. Youngest of ___ or ___ 
and most of her sibs have died. ___ feels she needs help, becaue 
she is not comfortable in her own house. He is concerned that 
she is going to hurt herself. 

Has not spoken about defending self against delusion. Spoke to 
psychiatrist. She watches these religious tv shows she is 
sending money out to these people. She has lost weight because 
she only eats oat meal. Won't eat anything else but oatmeal, 
icecream and crackers. Looks like she is not sleeping. 
Constantly thinking something is happening in her home. Not 
taking her medications. Stated that she will refuse taking the 
medication.  

Dr. ___ - outpatient psychiatrist Dr. ___ that 
the patient has been intermittently non-compliant with 
medications in the past which have led to onset of persecutory 
delusions as well as depressive episodes.  The patient was 
initially treated for PTSD with Dr. ___ ___ years ago. She has 
required multiple admissions for depression with suicidal 
ideation including admissions in ___ and ___ was 
admitted to ___ inpatient psychiatry several years 
ago for depression and PTSD; she has history of emotionally 
abusive relationship with ex husband. She felt that her symptoms 
had improved by the end of that admission but stopped taking her 
medications after discharge. In ___ the patient was evaluated 
in the ED due to persecutory delusions but not thought to meet 
___ for involuntary admission. Recently the patient was 
evaluated by BEST in the community due to persecutory delusions 
but not thought to meet ___ (she was thought to be 
paranoid but not dangerous). Recently the patient has developed 
worsening persecutory delusions and paranoia in the setting of 
potential medication non-compliance. Per family, the patient 
believes a young woman lives in her apartment when the patient 
is out, and has noted that this woman ___ is her husband's 
mistress. She believes this woman is poisoning her and has 
decreased her PO intake due to fear of being poisoned. She 
carries most of her belongings with her due to fear they will be 
poisoned if left unsupervised. She has called the police 
multiple times to report poisoning. Over the last two months she 
has lost ~10lbs due to decreased PO intake related to fear of 
poisoning. Her husband and ___ are very worried about her. They 
note she believes there is an evil spirit in the apartment and 
worried that her ___ had an evil spirit within him. This ___ 
brought her to her appointment on the day of presentation due to 
concern that the patient's symptoms are progressing. The family 
and Dr. ___ the patient requires involuntary admission. 
Dr. ___ is concerned that the patient's poor PO intake is a 
sign that she can not properly care for herself in the 
community. The patient has refused antipsychotic in the 
community. Recently she has been prescribed Rexulti by Dr. ___.
""

Course in Emergency Department (from nursing documentation):
""
Pt comes in A&Ox3 on ___ from psychiatrists office for 
worsening AH with paranoia. Patient with history of 
schizophrenia, per reports has been noncompliant with her 
nedications. Patient reports no AH/VH/HI/SI, but when asked 
patient elaborates on "the witch that lives upstairs that is 
cursing me, using my stuff, and trying to attack me". Per 
patient's daughter in law at bedside there is no upstairs 
neighbor, patient has called police several times for this and 
also is paranoid in taking all of her belongings with her every 
time she leaves the apartment. Per family she is very spiritual 
in these beliefs believing these are demons taking her things 
and attacking her and god will protect her. Unsure of recent 
medication compliance. Patient agreeable to change when policy 
and process explained.
""
On interview on the unit, patient states "I'm not evil. I'm not 
here to harm nobody, myself, anything." She states that she is 
here because her ___ was worried and wanted her to come in.  She 
states that recently, a dark-skinned girl has been entering her 
apartment and participates in "rituals" and "evil, dirty 
things." She states that this girl first came into her life when 
she started to "mess around with my dude." She states that the 
girl participates in witchcraft and that she had to be more 
careful about her food and water, as well as her lotions. She 
noted that she had to empty out all of her water because she 
noticed that the seals were broken. She states that one time she 
came home to a foul odor and saw the girl "doing rituals" and 
had written something on the floor in chalk. She asserts that 
the other residents in her building know about the girl as well 
but that "she's pinpointing me. She's bothering me." She denied 
fear and stated "I'm not afraid of her. All of that is devil's 
work."  

She states that this has never happened to her before but that 
"there was a curse on my family in ___ and that her mother 
dealt with similar issues. When probed further patient denies 
that her mother has history of auditory or visual 
hallucinations. 

She states that the girl is "jealous of me" and is "evil." She 
states that "jealousy is the worst" and that "someone can hurt 
you" while jealous. She says that many people have been jealous 
of her in the past because of her ability to sing, play piano, 
and that she dresses well. She states that she never learned how 
to play but that her ability is "a gift from God." She 
repeatedly states "I serve God" and says that her faith 
(pentecostalism) is
very important to her, noting that her faith is her source of 
strength that has saved her from her prior "sinning" including 
smoking and dancing.  

When discussing her outpatient psychiatrist Dr. ___ states 
"she's not my doctor. She fooled me. She tricked me into signing 
the paper so she could have control of me." She states she 
considered suing her. She states that recently she stopped 
taking some of her medications because one of the medications 
was making her "want to hurt people." At the end of the 
interview, she told the treatment team "I'm so glad you 
understand me."   Regarding patient's mood, she endorses feeling 
recently depressed that her ___ does not understand her, but 
denied any suicidal ideation, intent, or plan. She denies having 
any homicidal ideation including no violent thoughts of harming 
others. She overtly denied any auditory hallucinations. She 
endorsed having some trouble sleeping but noted that it is 
variable depending on "when she goes to bed".  
 
Past Medical History:
Past Psychiatric History - 
Hospitalizations: St. ___ for SI. total of 4 
Current treaters and treatment: ___, 
Medication and ECT trials: Methadone for pain - chronic pain, 
duloxetine, Rixalti it makes me feel like I'm outside of my body 
floating above it, side effects: seroquel-headaches, made me see 
things, Pr Dr. ___, "Quetiapine, Abilify, Perphenazine 
and Asenapine for few weeks each. She self-discontinued all 
antipsychotic agents because of the side effects. She states she 
has been taking the low dose of Rexulti for the last four or 
five months. She refuses to consider getting antipsychotic 
injections"
Self-injury: ___ tried to take life by cutting herself, states 
that she was holding the broken glass but did not actually make 
the attempt.  
Harm to others: denies
Access to weapons: denies-knives and forks, no guns  
Psychiatrist: Dr. ___
.
Past Medical History - 
Chiari malformation, chronic pain
Chronic myofascial pain syndrome 
R sided oophorectomy
C section 
 
Social History:
___
Family History:
Brother- drug use, psych hospitalization Denies hx of psychosis 
in mother but states that mother told her that she was bothered 
by individuals who practiced witchcraft as well. 
 
Physical Exam:
 VITAL SIGNS:
___ 1302 Temp: 98.2 PO BP: 132/83 HR: 84 RR: 17 O2 sat: 96% 


 EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear, supple neck.  No scleral icterus. 
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses palpated.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
 tenderness to palpation in all quadrants.  No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: Healing papular, nonerythematous rash over shoulder 
area.

Neurological:
-Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally. 
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Not formally tested
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: Not tested
 ___: Not tested
 -Gait: No gait difficulties

Cognition: Patient is attentive, with grossly intact 
orientation.
Patient was aware of date and location at hospital. Patient's
memory appears intact to interview as patient was able to relay
past. Her language is fluent without paraphasic errors. 

Mental Status:
 *Appearance: NAD, seated comfortably in bed, appears younger
than stated age, appropriately dressed in hospital gown, good
hygiene, well-groomed, 
 *Behavior: Cooperative with appropriate eye contact
 *Mood/Affect: "I'm a little depressed"; affect full, initially
irritable 
 *Thought process: Frequently tangential and circumstantial; Not
overtly disorganized.
 *Thought Content: Denies passive death wishes or any suicidal
ideation, intent, or plan. Denies desire to harm others; no
homicidal ideation. Endorses delusions as per HPI and related
AH/VH (seeing and hearing the girl in her apartment). 
 *Judgment and Insight: Poor/Poor (patient believes she is in
hospital for neck pain and rest)
 
Pertinent Results:
___ 05:45PM BLOOD WBC-5.1 RBC-4.12 Hgb-12.6 Hct-38.6 MCV-94 
MCH-30.6 MCHC-32.6 RDW-14.1 RDWSD-48.5* Plt ___
___ 05:45PM BLOOD Neuts-55.6 ___ Monos-10.7 
Eos-0.6* Baso-0.8 Im ___ AbsNeut-2.82 AbsLymp-1.63 
AbsMono-0.54 AbsEos-0.03* AbsBaso-0.04
___ 05:45PM BLOOD Plt ___
___ 05:45PM BLOOD Glucose-116* UreaN-13 Creat-0.9 Na-143 
K-4.1 Cl-103 HCO3-29 AnGap-11
___ 06:20AM BLOOD ALT-15 AST-15 LD(LDH)-193 AlkPhos-63 
TotBili-0.3
___ 06:20AM BLOOD Lipase-38
___ 06:20AM BLOOD Albumin-3.7 Iron-47 Cholest-162
___ 06:20AM BLOOD VitB12-1501* ___ Ferritn-42
___ 06:20AM BLOOD %HbA1c-5.8 eAG-120
___ 06:20AM BLOOD Triglyc-101 HDL-49 CHOL/HD-3.3 LDLcalc-93
___ 06:20AM BLOOD TSH-3.4
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1) LEGAL & SAFETY:  
Patient initially admitted on ___, and had since signed a 
conditional voluntary agreement (Section 10 & 11) and remained 
on that level throughout their admission. Patient maintained 
safety on 15 minute checks/green sharps and had maintained that 
level of observation throughout while being unit restricted. No 
chemical or physical restraints needed during admission. 
. 

2) PSYCHIATRIC:
Upon admission initially, patient was paranoid and guarded, and 
at first refused to consider signing legal paperwork as she 
believed "no one is gonna trick me" and that her psychiatrist 
"tricked [her] into signing the paper so she could have control 
over [her]". She stated that there was a woman who had been 
doing witchraft in her apartment (she believed this was her ex 
husband's mistress ___ who was trying to both poison her 
food, change around her ointments, write messages on the ground, 
and harm her cats to terrorize the patient.  She would often see 
___, hear her making noise in her home, but never heard her 
speak; she denied experiencing auditory hallucinations and did 
not appear internally preoccupied. Nevertheless, patient had 
poor insight into her psychotic illness given that she believed 
her ___ wanted her on an inpatient unit as a respite from her 
stressful situation at home. Otherwise patient had endorsed 
depressed mood and anxiety from her current situation, but 
denied any suicidal or homicidal ideation, intent, or plan with 
very future oriented, optimistic thinking with protective 
factors including family and religion. 
.
On initial exam, patient was guarded and then over course of 
interview was more comfortable and forthcoming. Her speech was 
non pressured with normal prosody, but patient was disorganized 
with both circumstantial and tangential thought process, with 
aforementioned delusions present along with hyperreligiosity. 
From prior history obtained from both OMR and collateral, 
patient had long history of medication non compliance and in 
this setting had multiple hospitalizations for suicidal ideation 
and persecutory delusions (per record, 4 hospitalizations in 
total most recent being at ___. She was prescribed 
multiple antipsychotics, all of which patient refused including 
most recently brexipiprazole (last filled ___. Inpatient 
psychiatric hospitalization was deemed necessary for diagnostic 
clarification, medication management, psychotherapeutic 
intervention, and collaboration with outpatient providers.
.
During hospital course, patient initially refused to take 
risperidone because "Dr. ___ not my doctor anymore, put 
me on that and I'm not supposed to be on that". However, she 
agreed to try paliperidone instead and was initially started on 
paliperidone 3 mg QHS and continued on both Duloxetine 60 mg PO 
for depression and Hydroxyzine 25 mg QHS PRN for insomnia. PRNs 
for anxiety/agitation included risperidone 0.5 mg BID PRN and 
lorazepam 0.5 mg BID PRN, although patient was not agitated 
during hospital course. While in hospital, patient socialized 
with other patients, was friendly/cooperative with both staff 
and other patients, felt safe on unit and noted that her mood 
was "pretty good" overall. However, after patient continued to 
endorse feeling worried about "my ex boyriend's mistress 
performing witch craft.... who know's what she's been doing up 
there", and talking in detail about how "the woman looks just 
like you and me but sometimes appears in the form of a voodoo 
spirit", patient was titrated upwards to paliperidone 6 mg 
QHS---> 9 mg QHS. Patient was agreeable to trying long acting 
injectable and was started on Invega sustenna IM 234 mg, 
followed by 156 mg on ___. Patient appeared to be tolerating 
Invega sustenna with no reported side effects, and was agreeable 
to continue to take her medication in outpatient setting as long 
as she could establish a successful therapeutic alliance with a 
psychiatrist.  During family meeting with patient's ___, 
daughter in law, and cousin, patient's family was deeply 
concerned for patient's safety given recent bizarre behavior, 
poor PO intake, hyperreligiosity, poor control over finances, 
with apparent functional decline. Patient's family felt patient 
had improved substantially from initial presentation, but felt 
patient was still not at baseline and needed to be further 
stabilized prior to discharge. 
.
Patient throughout weekend believed that she would be discharged 
on ___ or ___ after injection, and when patient was not 
discharged home, patient was extremely upset. She refused to get 
2nd dose of Invega unless she had official legal documentation 
stating that she would be discharged. Patient appeared paranoid 
regarding her medications, asking why she got different colors 
for her B12 pill. She felt the staff at ___ was untrustworthy 
given that she felt "lied to" and held in the inpatient unit 
without reason. This was the first time patient was particularly 
upset with primary treatment team and was indicative of 
patient's limited insight into her psychiatric illness. She 
additionally verbalized paranoia regarding night time nursing 
staff, particularly stating that the nurse was "evil" and that 
she could "sense it". Patient signed 3 day notice on ___ 
after hearing she would not be discharged on ___. 
. 
Diagnostically, patient's presentation appeared consistent with 
a ___ psychotic disorder or paraphrenia. The 
differential included primary psychotic disorder, or more likely 
an affective psychosis given her mood symptoms of stated 
depression and irritability alongside decreased need for sleep. 
Per collateral from Dr. ___ additionally had hx of 
prior episodes consistent with mania and major depression, which 
further supported the notion that patient has schizoaffective 
disorder, bipolar type. 
.
On discharge patient was slightly irritable given that she was 
upset for having to leave later than expected, but denied 
depressed mood, SI/HI, AVH, and did not appear to be internally 
preoccupied. Patient was exhibiting paranoid behavior given her 
distrust of medical team, but appeared less paranoid and more 
calm today compared to yesterday. Nevertheless, patient over 
last week exhibited overall improvement in mental status, with 
notable decrease in preoccupation with paranoid delusions 
(though still present). Patient had notable improved PO intake, 
was social with peers, and was successfully titrated on Invega 
Sustenna with 2nd dose given ___. 
.
3)MEDICAL:
#Papular, nonerythematous neck rash 
- started on hydrocerin cream 
- Hydroxyzine 25 mg PO Q4H PRN for itching 
- D/C ketoconazole, desonide, and triamcinolone cream. Per 
original instructions from dermatologist, patient did not need 
to continue taking cream any longer than 2 weeks from initial 
date of prescription. Patient had not refilled ointment 
prescriptions in pharmacy for over ___ year. 
. 
#Lower extremity edema
- Patient began complaining of lower extremity edema on ___
- Likely ___ decreased physical activity while on unit given 
that edema is not a complication associated with invega 
sustenna. Encouraged to elevate lower extremities when supine or 
seated. 
- Given ___ compression stockings
.
#HSV
- patient given acyclovir 400 mg PO TID x ___ days for 
suppression of sx
. 
#Chronic neck pain ___ Chiari I Malformation/Chronic myofascial 
pain syndrome 
- Had recent injections from pain management with Bupivacaine 
0.25% 20 ml with Triamcinolone 40mg/ ml on ___ 1 ml 
- Continued on Methadone 20 mg PO BID 
- Acetaminophen 650 mg PO PRN 
. 
#Asthma
- Albuterol inhaler 2 puffs Q4 PRN 
- fluticasone propionate nasal 1 spray NU BID:PRN 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Ms. 
___ attended groups occasionally that focused on teaching 
patients various coping skills.  
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Collateral was obtained from patient's ___ (___) 
along with patient's outpatient psychiatrist Dr. ___ 
(___) as noted above. Patient's family also 
attended a meeting with treatment team on ___ family 
indicated that they would be willing to provide ongoing support 
to patient in the community (e.g. checking in on patient more 
frequently). Family also visited the patient frequently on the 
unit, and family was in agreement with discharge to home on 
___.
.
#) INTERVENTIONS
- Medications: 
Invega Sustenna IM 234 mg once, followed by 154 mg IM once
Benztropine Mesylate 0.5 mg PO/NG QHS
PALIperidone ER 9 mg PO QHS
DULoxetine 60 mg PO DAILY

- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: 

Appointment scheduled with Dr. ___-
Department: ___
When: ___ at 12:40 ___
With: ___
Building: ___
Campus: ___     Best Parking: ___
. 
Paliperidone-
I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon patient's poor 
insight, disruptive behavior within the community (frequent 
calls to police, spoke to neighbors about seeing ex boyfriend's 
mistress in home) and poor PO intake due to paranoia. Patient 
had prior hx of multiple hospitalizations and chronic mental 
illness, with hx of abuse (physical, sexual, emotional), 
comorbid chronic health conditions, with history of medical 
noncompliance in setting where patient was living alone. 
However, patient has many protective factors including positive 
social and family support, spirituality, sense of responsibility 
to self/family/pets, and no access to lethal weapon/means, with 
recently improved insight and medication compliance given 
patient's willingness to take invega sustenna. Overall, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others due to acutely decompensated psychiatric 
illness. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN Shortness of breath 
2. DULoxetine 60 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. HydrOXYzine 25 mg PO Q4H:PRN itching 
5. Methadone (Concentrated Oral Solution) 10 mg/1 mL 20 mg PO 
BID pain 
6. Bisacodyl 5 mg PO BID 
7. brexpiprazole 3 mg oral QD 
8. Desonide 0.05% Cream 1 Appl TP PRN neck rash  
9. Senna 8.6 mg PO BID:PRN Constipation - First Line 
10. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
11. Ketoconazole 2%  1 Appl TP PRN rash 
12. Triamcinolone Acetonide 0.1% Cream 1 Appl TP PRN neck rash  

 
Discharge Medications:
1.  Acyclovir 400 mg PO TID HSV suppression 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*21 Tablet Refills:*0 
2.  Benztropine Mesylate 0.5 mg PO QHS 
RX *benztropine 0.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
3.  Docusate Sodium 200 mg PO BID:PRN Constipation - Second Line 

RX *docusate sodium 100 mg 2 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0 
4.  PALIperidone ER 9 mg PO QHS 
RX *paliperidone 9 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *polyethylene glycol 3350 17 gram 1 packet by mouth once a 
day Disp #*14 Packet Refills:*0 
6.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
once a day Disp #*14 Tablet Refills:*0 
7.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
8.  Albuterol Inhaler 2 PUFF IH Q4H:PRN Shortness of breath 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 2 puffs IH every 
four (4) hours Disp #*1 Inhaler Refills:*0 
9.  DULoxetine 60 mg PO DAILY 
RX *duloxetine 60 mg 1 capsule(s) by mouth once a day Disp #*14 
Capsule Refills:*0 
10.  Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone 50 mcg/actuation 1 spray IH twice a day Disp #*1 
Spray Refills:*0 
11.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective disorder, bipolar type 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 *Appearance: Dressed in hospital gown, wearing head scarf,
seated in hospital chair. 
 *Behavior: superficially cooperative, irritable 
 *Mood/Affect: 'I'm upset'; full, mood congruent affect
 *Thought process: Grossly linear, with occasional tangentiality
 *Thought Content: Denied passive death wishes or any suicidal
ideation, intent, or plan. Denied desire to harm others; no
homicidal ideation. Endorsed feeling that hospital staff have 
been dishonest and has appeared paranoid. Continued to endorse 
delusion of ex boyfriends mistress ___ practicing witchcraft 
in her home, but appeared less concerned and stressed. Patient 
appeared less anxious She denied any AVH, was not internally 
preoccupied.  
 *Judgment and Insight: poor; patient continued to believe she 
was in hospital for 'stress' and 'relaxation' 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___